Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
-Removal of left peripherally inserted central catheter 
(___)
-Insertion of right peripherally inserted central catheter 
(___)

 
History of Present Illness:
___ is a ___ woman with history of chronic 
constipation (s/p subtotal colectomy in ___, now with 
chronic diarrhea), s/p PICC placement on ___ for IV 
hydration, and history of DVT Warfarin) who presented to the 
___ ED on ___ with 2 weeks of pain along the course of her 
PICC line, 1 week of fevers, and difficulty infusing fluids 
through her PICC.(previously on 

The pt reports she has had dull pain along the course of her 
PICC line (from her L arm to her L axilla) ever since her PICC 
was placed.  The PICC has also been difficult to use, with fluid 
infusions requiring ~3.5 hours (this is an improvement from when 
the PICC was first placed, when infusions would take ~7 hours).  
She is able to flush and draw from the line without issues.  For 
the past week, the pt has suffered from intermittent fevers (her 
maximum recorded temperature was 103) and chills.  She was seen 
by her ___ on ___, who became concerned because the patient's 
temperature was 95 and she was shivering.  She was sent to her 
PCP, who transferred her to the ___.

Upon arrival to the ___ ED, her vitals were Temp 98, HR 90, BP 
102/81, RR 20, and SpO2 100% on RA.  On exam in the ED, the pt's 
L PICC site was without tenderness or erythema, and her LUE was 
non-edematous.  CBC, BMP, and UA were WNL.  CXR showed no acute 
cardiopulmonary process, but LUE US showed partially-occlusive 
DVT in the L subclavian/axillary veins.  In the ED, she was 
treated with 1g IV Vancomycin and 60 mg SC Lovenox.  As the 
Vancomycin drip was finishing, the pt began to complain of 
diffuse pruritis and developed a rash throughout her neck and 
torso. She did not have any chest pain or SOB.  She was treated 
with Benadryl 50mg PO x1, and her symptoms and the rash 
improved.  Vitals at the time of transfer were Temp 98.1, HR 81, 
BP 106/63, RR 18, SpO2 98% on RA.

On arrival to the floor, the pt stated her pruritis was 
improved.  There were no overnight events.  This morning, the pt 
continues to complain of dull pain in her LUE, along the course 
of her PICC line, but has no other complaints.  She denies any 
pruritis. She denies any sick contacts or recent travel.  She 
denies any runny nose, sore throat, SOB, abdominal pain, changes 
in her stools (she has 5 loose BMs/day at baseline), or dysuria. 

 
Past Medical History:
1. Tension headaches.  
2. Slow transient constipation.  
3. Depression.  
4. Fatigue.  
5. History of bilateral ovarian cysts.  
6. History of drug and alcohol abuse.  
7. Anxiety.  
8. Depression.  
9. History of gastritis and peptic ulcer disease.  
10. ?SLE - musculoskeletal pain,faint transient malar rash. Lab 
work up negative for ___, dsDNA, Ro, La, Sm, RNP, normal 
urinalysis, normal CBC, BUN and creatinine, and LFTs. 
Rheumatologist has ruled out SLE.  
11. ? Inflammatory arthropathy - polyarticular joint pain since 
___, worse in the previous three months, negative work up.  
12. Chronic fatigue syndrome  
13. Vitamin D deficiency  
14. Hypothyroidism   
15. Hx of DVT - at the age of ___ (told it was when she was 
playing soccer?)  
16. GERD  
17. Neuropathy  

 
Social History:
___
Family History:
Mother with no cancer  
Father- unsure  
2 brothers and sister are alive and well  
PGM with breast cancer, DM, CVD, HTN  
MGM - breast cancer, DM, HLD, HTN  
No history of blood clots or bleeding disorders  

 
Physical Exam:
>>>ADMISSION EXAM:
Vitals:  
-Temp 97.6-97.9, currently 97.6
-HR ___
-BP 92-120/51-77, currently 92/51
-RR 16
-SpO2 98% on RA

General: NAD, comfortable, laying in bed
HEENT: PERRL, sclera anicteric, MMM
Heart: RRR, no murmurs
Lungs: CTAB, no wheezes or crackles
Abdomen: Soft, non-tender, non-distended.  Normoactive bowel 
sounds.
Extremities: WWP. Mild tenderness to palpation along course of 
PICC site.  No edema. Normal ROM.
Neuro: AAOx3, relaxed and cooperative
Skin: No rashes

>>>DISCHARGE EXAM:
-Temp 97.0-98.2, currently 98.2
-HR 61-78, currently 73
-BP 94-111/50-70, currently 103/64
-RR 18
-SpO2 100% on RA

General: NAD, comfortable, laying in bed
HEENT: PERRL, sclera anicteric, MMM
Heart: RRR, no murmurs
Lungs: CTAB, no wheezes or crackles
Abdomen: Soft, non-tender, non-distended.  Normoactive bowel 
sounds.
Extremities: WWP. Mild tenderness to palpation along course of 
previous LUE PICC. No lower extremity edema. Normal ROM.
Neuro: AAOx3, relaxed and cooperative
Skin: no rashes
 
Pertinent Results:
>>>ADMISSION LABS:
-CBC (___): WBC 7.4 with 65% neutrophils, Hgb 12.5, Hct 
37.5%, Plt 290
-BMP (___): Na 138, K 4.1, Cl 101, HCO3 25, BUN 8, Cr 0.7, 
Anion gap 16
-LFTs ___ ALT 16, AST 17, AlkPhos 45, Tbili 0.4
-UA (___): negative for nitrities and leukocyte esterase
-Zinc (___):
-Iron studies (___): Fe 82, ferritin 42, transferrin 244

>>>DISCHARGE LABS:
-CBC (___): WBC 5.0, Hgb 11.2, Hct 34.3%, Plt 235
-BMP (___): Na 141, K 4.1, Cl 106, HCO3 26, BUN 8, Cr 0.6, 
Anion gap 13

>>>MICROBIOLOGY:
-Urine Cx (___): Mixed flora
-Blood Cx (___): no growth in 60 hours x2

>>>IMAGING:
-CXR (___): No acute cardiopulmonary process. L PICC 
terminates in upper SVC.
-L upper extremity US (___): Small amount of non-occlusive 
DVT in the L subclavian/axillary veins surrounding the PICC.  
Partially occlusive thrombus surrounding the L PICC. 
-CXR ___, preliminary read): PICC terminates in lower SVC, 
no pneumothorax
 
Brief Hospital Course:
___ is a ___ woman with history of chronic 
constipation (s/p subtotal colectomy in ___, now with 
chronic diarrhea), s/p PICC placement on ___ for IV 
hydration, and history of DVT (previously on Warfarin) who 
presented to the ___ ED on ___ with 2 weeks of pain along 
the course of her PICC line, 1 week of fevers, and difficulty 
infusing fluids through her PICC, and was found to have DVT 
surrounding the LUE PICC line.

#L upper extremity DVT: The pt has history of previous lower 
extremity DVT at age ~___, and states she was briefly on 
Warfarin. She presented with 2 weeks of pain along the course of 
her PICC line, 1 week of fevers, and difficulty infusing fluids 
through the line (she states that her infusions can take ~3 
hours, but this is actually an improvement from when she first 
got the PICC line and it would take ~7 hours). Her exam was 
notable for mild tenderness to palpation along the course of her 
PICC line, but no LUE edema or pain with movement. ___ US 
identified a partially-occlusive DVT surrounding her PICC line. 
She was started on Lovenox SC BID to prevent pulmonary embolism. 
Her L PICC line was removed on ___. Blood Cx showed no 
growth for 84h, and a R PICC line was placed on ___. Proper 
placement of the new R PICC was confirmed with CXR.

#Fevers: The pt presented with 1 week of fevers, but no symptoms 
of localized infection. Her fevers were likely due to the DVT. 
WBC count was normal at 7.4 on admission, CXR was negative for 
pneumonia, UA was negative for UTI, and blood Cx showed no 
growth in 84 h. 

#Rash, pruritis: The pt developed pruritis and rash at end of 1g 
IV Vancomycin infusion in the ED. The exact rate of infusion is 
unknown. There was no evidence of anaphylaxis. This was likely a 
mild pseudoallergic reaction (Red Man syndrome) due to rapid 
Vancomycin infusion. IgE-mediated hypersensitivity unlikely 
given no respiratory compromise or history of previous exposure 
to Vancomycin. The pt was given PO Benadryl 50 mg x1, and her 
rash and pruritis resolved. She did not receive any more 
vancomycin during this admission, and had no further episodes of 
pruritis/rash.

#Chronic diarrhea: Pt has longstanding diarrhea ___ partial 
colectomy in ___ for chronic constipation. Extensive 
rheumatologic work-up has been negative. Pt has 5 loose BMs/day 
at baseline, and has not had any recent changes in her bowel 
habits. She remained at her baseline throughout this admission 
and received IV hydration as needed.

#CODE: full (presumed)
#EMERGENCY CONTACT: ___, Mother, ___, 
___ 
#TRANSITIONAL ISSUES:
-Please work-up the patient as an outpatient for 
hypercoagulability. While this is a provoked DVT in the setting 
of recent ___ line, the patient also had a DVT in her lower 
extremities when she was ___ years old.
-The patient will require a minimum of 3 months of 
anticoagulation due to upper extremity DVT, longer if she is 
found to have a thrombophilia.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LOPERamide 2 mg PO TID 
2. Omeprazole 40 mg PO DAILY 
3. Venlafaxine XR 150 mg PO BID 
4. Multivitamins 1 TAB PO DAILY 
5. busPIRone 30 mg oral BID 
6. sodium chloride 0.9 % 0.9 % intravenous DAILY:PRN nausea and 
vomiting 
7. BuPROPion XL (Once Daily) 150 mg PO EVERY OTHER DAY 
8. Prochlorperazine 10 mg PO Q4H:PRN nausea 
9. TraZODone 100 mg PO QHS:PRN insomnia 
10. Cholestyramine 4 gm PO TID 
11. Melatin (melatonin) 3 mg oral QHS:PRN insomnia 

 
Discharge Medications:
1. BuPROPion XL (Once Daily) 150 mg PO EVERY OTHER DAY 
2. busPIRone 30 mg oral BID 
3. Cholestyramine 4 gm PO TID 
4. LOPERamide 2 mg PO TID 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 40 mg PO DAILY 
7. TraZODone 100 mg PO QHS:PRN insomnia 
8. Venlafaxine XR 150 mg PO BID 
9. Melatin (melatonin) 3 mg oral QHS:PRN insomnia 
10. sodium chloride 0.9 % 0.9 % intravenous DAILY:PRN nausea and 
vomiting 
11. Enoxaparin Sodium 60 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 60 mg/0.6 mL 60 mg SC twice daily Disp #*28 
Syringe Refills:*0
12. Prochlorperazine 10 mg PO Q4H:PRN nausea 
13. IV fluid
Normal Saline, 1.5L, infuse over 3 hours, daily. 
Duration: 2 weeks.
ICD10 E86.0
14. Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN mouth pain 

swish and spit 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
1. Deep venous thrombosis, left upper extremity
2. Chronic diarrhea
3. Chronic dehydration
SECONDARY DIAGNOSES:
-Red man syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure caring for you at the ___.

1. Why was I here?
You were in the hospital because you had a clot around the PICC 
line in your left arm.

2. What was done for me while I was here?
You were started on blood thinners for the clot in your left 
arm.  Your PICC line in the left arm was removed, and a new PICC 
line was placed in your right arm.

3. What should I do when I leave the hospital?
You should take all of your medications as prescribed.  You 
should take the Lovenox for at least 3 months, longer if your 
PCP decides it is necessary.

We wish you the best!
-Your ___ care team
 
Followup Instructions:
___